US05663194
N-(2-{[3-(3-Amino-phenoxy)-propylamino]-methyl}-chroman-7-yl)-methanesulfonamide
N-(2-Propylaminomethyl-chroman-7-yl)-methanesulfonamide as the oxalate, hemihydrate, mp 204°-205° C.

reactant | N-(2-Propylaminomethyl-chroman-7-yl)-methanesulfonamide | C(CC)NCC1OC2=CC(=CC=C2CC1)NS(=O)(=O)C | C14H22N2O3S
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
product | N-(2-{[3-(3-Amino-phenoxy)-propylamino]-methyl}-chroman-7-yl)-methanesulfonamide | NC=1C=C(OCCCNCC2OC3=CC(=CC=C3CC2)NS(=O)(=O)C)C=CC1 | C20H27N3O4S
